US08455488B2
Synthesis of 1-(2-((S)-1-((benzo[b]thiophen-3-ylmethyl)((S)-1,1-diethoxypropan-2-yl)amino)-1,4-dioxo-4-(tritylamino)butan-2-ylamino)-2-oxoethoxy)-3-benzylurea (Compound II-124)
According to the procedure described in the synthesis method of Compound II-15, 2-(3-benzylureidooxy)acetic acid (Compound VI-1) 52 mg (0.23 mmol) was coupled with (S)-2-amino-N1-(benzo[b]thiophen-3-ylmethyl)-N1—((S)-1,1-diethoxypropan-2-yl)-N4-tritylsuccinamide (Compound IV-21) 100 mg (0.15 mmol) to obtain the title compound.

reactant | 2-(3-benzylureidooxy)acetic acid | 0.23 mmol, 52 mg | C(C1=CC=CC=C1)NC(NOCC(=O)O)=O | C10H12N2O4
reactant | (S)-2-amino-N1-(benzo[b]thiophen-3-ylmethyl)-N1—((S)-1,1-diethoxypropan-2-yl)-N4-tritylsuccinamide | 0.15 mmol, 100 mg | N[C@H](C(=O)N([C@H](C(OCC)OCC)C)CC=1C2=C(SC1)C=CC=C2)CC(=O)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C39H43N3O4S
product | 1-(2-((S)-1-((benzo[b]thiophen-3-ylmethyl)((S)-1,1-diethoxypropan-2-yl)amino)-1,4-dioxo-4-(tritylamino)butan-2-ylamino)-2-oxoethoxy)-3-benzylurea | S1C2=C(C(=C1)CN(C([C@H](CC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)NC(CONC(=O)NCC1=CC=CC=C1)=O)=O)[C@H](C(OCC)OCC)C)C=CC=C2 | C49H53N5O7S
